US08017608B2
59a) 4-Methanesulfonyl-3-trifluoromethyl-benzaldehyde
Methane sulfinic acid sodium salt (6.65 g, 65.1 mmol) is added to a stirred solution of 4-Fluoro-3-trifluoromethyl-benzaldehyde (10.0 g, 52.1 mmol) in dry DMSO (200 ml) and the mixture is heated at 75° C. After 2 hours the reaction is allowed to cool and poured onto ice-water (300 ml). The precipitate is collected by filtration, washed with water and dissolved in dichloromethane (200 ml). The organic extract is washed with water (3×200 ml), dried over MgSO4, filtered, and the solvent is removed to give the title compound as a white solid.

reactant | Methane sulfinic acid sodium salt | 65.1 mmol, 6.65 g | [Na+].CS(=O)[O-]
reactant | 4-Fluoro-3-trifluoromethyl-benzaldehyde | 52.1 mmol, 10.0 g | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | 4-Methanesulfonyl-3-trifluoromethyl-benzaldehyde | CS(=O)(=O)C1=C(C=C(C=O)C=C1)C(F)(F)F | C9H7F3O3S
